US07626034B2
Ru(OAc)2((R)-dm-binap) (13.4 mg, 0.0140 mmol), methyl benzoylacetate (500 mg, 2.806 mmol), ammonium acetate (216 mg, 2.806 mmol) and methanol (2.5 mL) were placed in a 100 mL stainless steel autoclave under nitrogen atmosphere, and the mixture was stirred at 80° C. for 1 hour. The reaction mixture was cooled down to room temperature and further stirred under a hydrogen pressure of 3 MPa at 80° C. for 15 hours. After completion of the reaction, the solvent was removed by evaporation and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate/triethylamine=50/50/5-0/95/5) to give methyl (3S)-3-amino-3-phenylpropionate (201 mg) as a colorless oil in 40.0% yield. The enantiomeric excess of the product was determined to be 96.7% ee by HPLC analysis using a SUMICHIRAL OA-4100R column (available from SUMIKA CHEMICAL ANALYSIS SERVICE LTD.) after conversion into methyl (3S)-3-(4-nitrobenzoylamino)-3-phenylpropionate.

reactant | methyl benzoylacetate | 2.806 mmol, 500 mg | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
reactant | ammonium acetate | 2.806 mmol, 216 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 2.5 mL | CO | CH4O
product | methyl (3S)-3-amino-3-phenylpropionate | 201 mg, 40.0% yield | N[C@@H](CC(=O)OC)C1=CC=CC=C1 | C10H13NO2
